US07981874B2
Diethyl [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]phosphonate.
A mixture of 4-(diethoxyphosphoryl)benzoic acid (commercially available, 50 mg, 0.194 mmol), EDCI (44.6 mg, 0.233 mmol), HOBT (31.5 mg, 0.233 mmol) and tert-butyl [2-amino-4-(2-thienyl)phenyl]carbamate (67.7 mg, 0.233 mmol) were taken into DMF (0.58 mL) and stirred for 16 h. Approximately 5 mL of TFA was added to the mixture which was stirred for 1 h and concentrated. The product was purified by HPLC (30-90% MeCN in H2O with 0.025% TFA) to afford the requisite product. 1H NMR (DMSO-d6, 600 MHz) δ 9.87 (s, 1H), 8.11 (dd, J=7.9, 3.5 Hz, 2H), 7.83 (dd, J=21.1, 8.2 Hz, 2H), 7.45 (d, J=2.0 Hz, 1H), 7.33 (dd, J=5.0, 0.9 Hz, 1H), 7.29 (dd, J=8.2, 2.0 Hz, 1H), 7.22 (d, J=2.9 Hz, 1H), 7.03 (dd, J=5.0, 3.5 Hz, 1H), 6.79 (d, J=8.5 Hz, 1H), 5.39 (s, 2H), 3.97-4.16 (m, 4H), 1.33 (t, J=7.04 Hz, 6H). MS: cal'd 431 (MH+), exp 431 (MH+).

reactant | 4-(diethoxyphosphoryl)benzoic acid | C(C)OP(=O)(OCC)C1=CC=C(C(=O)O)C=C1 | C11H15O5P
reactant | EDCI | 0.233 mmol, 44.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.233 mmol, 31.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl [2-amino-4-(2-thienyl)phenyl]carbamate | 0.233 mmol, 67.7 mg | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 0.58 mL | CN(C)C=O | C3H7NO
product | Diethyl [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]phosphonate | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)C1=CC=C(C=C1)P(OCC)(OCC)=O | C21H23N2O4PS
